US07754729B2
Intermediate 2a: tert-butyl 4-((methoxycarbonyl)methylene)piperidine-1-carboxylate
Sodium hydroxide (4.56 g, 0.114 mol) was dissolved in ethanol (210 mL), and trimethyl phosphonoacetate (11.4 g, 0.062 mol) added with stirring. The mixture was stirred for 30 min at room temperature. Tert-butyl 4-oxopiperidine-1-carboxylate (11.35 g, 0.057 mol) was added with stirring at room temperature, and the reaction was allowed to stand overnight. Then, the mixture was acidified with diluted hydrochloric acid until the pH was 4, filtered, concentrated, and partitioned into water and chloroform. Phases were separated. The aqueous phase was extracted once with chloroform. Chloroform phases were combined, washed once with brine, dried over anhydrous magnesium sulfate, and filtered. The filtrate was evaporated in vacuo to give the title compound.

reactant | Sodium hydroxide | 0.114 mol, 4.56 g | [OH-].[Na+]
reactant | trimethyl phosphonoacetate | 0.062 mol, 11.4 g | COC(=O)CP(=O)(OC)OC | C5H11O5P
reactant | Tert-butyl 4-oxopiperidine-1-carboxylate | 0.057 mol, 11.35 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 210 mL | C(C)O | C2H6O
product | tert-butyl 4-((methoxycarbonyl)methylene)piperidine-1-carboxylate | COC(=O)C=C1CCN(CC1)C(=O)OC(C)(C)C | C13H21NO4
